US04716178
A solution containing 5.0 g (0.0147 mole) of 2,6-di-tertiary-butyl-4-(3-ethoxyphenylimino)-2,5-cyclohexadien-1-one and 0.1 g of 5% palladium on charcoal catalyst in 250 ml of tetrahydrofuran was hydrogenated at 50 psi. The hydrogenation was complete after three hours. The catalyst was removed by filtration and the filtrate was evaporated to give 2,6-di-tertiary-butyl-4-(3'-ethoxyanilino)phenol as an oil. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 2,6-di-tertiary-butyl-4-(3-ethoxyphenylimino)-2,5-cyclohexadien-1-one | 0.0147 mole, 5.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC1=CC(=CC=C1)OCC)C(C)(C)C)=O | C22H29NO2
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2,6-di-tertiary-butyl-4-(3'-ethoxyanilino)phenol | C(C)(C)(C)C1=C(C(=CC(=C1)NC1=CC(=CC=C1)OCC)C(C)(C)C)O | C22H31NO2
